US07884141B2
Preparation of N-(2-methacryloxyethyl)diethanolamine
Triethanolamine is reacted with methyl methacrylate and sodium methoxide at ambient temperature until the unreacted mono-, di- and trimethacryloxy substituted products reached the desired distribution as determined by gas chromatography. The resulting solution is stripped of excess reagent under reduced pressure. Next, N-(2-methacryloxyethyl)diethanolamine is separated from the solution by chromatography.

reactant | Triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | sodium methoxide | C[O-].[Na+]
product | N-(2-methacryloxyethyl)diethanolamine | C(C(=C)C)(=O)OCCN(CCO)CCO | C10H19NO4
